US09193692B2
G. 3,3-Dimethyl-6-(2-methyl-4-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)phenyl)-4-(2-(tetrahydro-2H-pyran-4-yl)ethyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
3-(3-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazole (1 equiv), 6-bromo-3,3-dimethyl-4-(2-(tetrahydro-2H-pyran-4-yl)ethyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (1 equiv), [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (0.1 equiv), 1 M sodium carbonate in water (3 equiv), 1,4-dioxane and isopropanol were combined and the system was purged with nitrogen. The resulting mixture was stirred vigorously and heated at 100° C. for 1.5 h. The resulting mixture was cooled to room temperature, diluted with methanol and the volatiles removed under reduced pressure. The residue was partitioned between dichloromethane and water, shaken and the layers separated. The water layer was extracted with dichloromethane. The combined organics were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified using flash chromatography (20-100% ethyl acetate in hexane followed by 0-10% methanol in dichloromethane) to give the desired product in 97% yield. MS (ESI) m/z 532.7 [M+1]+.

reactant | 3-(3-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazole | 1 equiv | CC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)C1=NN=CN1C1OCCCC1 | C20H28BN3O3
reactant | 6-bromo-3,3-dimethyl-4-(2-(tetrahydro-2H-pyran-4-yl)ethyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 1 equiv | BrC=1N=C2C(=NC1)NC(C(N2CCC2CCOCC2)(C)C)=O | C15H21BrN4O2
reactant | dichloromethane | 0.1 equiv | ClCCl | CH2Cl2
reactant | sodium carbonate | 1 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 3 equiv | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | isopropanol | C(C)(C)O | C3H8O
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3,3-Dimethyl-6-(2-methyl-4-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)phenyl)-4-(2-(tetrahydro-2H-pyran-4-yl)ethyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 97% yield | CC1(N(C=2C(=NC=C(N2)C2=C(C=C(C=C2)C2=NN=CN2C2OCCCC2)C)NC1=O)CCC1CCOCC1)C | C29H37N7O3
